US07064123B1
A mixture of 2-benzylsulfanylmethyl-3-cyclohexyl-propionic acid ethyl ester (0.230 g), dioxane (10 mL), sodium hydroxide (1N, 3 mL), water (2 mL) and ethanol (4 mL) was stirred for 20 hours at room temperature. The solvents were evaporated and the residue dissolved in water (50 mL). The aqueous solution was washed twice with ether and then acidified to pH2. The product was extracted from the aqueous solution with ethyl acetate and the extracts were washed with saturated aqueous sodium chloride and then dried over magnesium sulfate. The solvent was removed by rotary evaporation at reduced pressure to give acid 2-benzylsulfanylmethyl-3-cyclohexyl-propionic acid (0.210 g).

reactant | 2-benzylsulfanylmethyl-3-cyclohexyl-propionic acid ethyl ester | 0.230 g | C(C)OC(C(CC1CCCCC1)CSCC1=CC=CC=C1)=O | C19H28O2S
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-benzylsulfanylmethyl-3-cyclohexyl-propionic acid | 0.210 g | C(C1=CC=CC=C1)SCC(C(=O)O)CC1CCCCC1 | C17H24O2S
